US04616014
5-Methyl-3-morpholino-6-phenyl-1,2,4-triazine (2.32 g) was dissolved in ethanol (40 ml) containing anhydrous hydrogen chloride and hydrogenated over 10% palladium on carbon (0.33 g) under an atmospheric pressure at room temperature. After the theoretical amount of hydrogen gas was absorbed, the catalyst was filtered off, and the filtrate was evaporated under reduced pressure. The residual solid was recrystallized from ethanol to give crystals of 5-methyl-3-morpholino-6-phenyl-2,5-dihydro-1,2,4-triazine hydrochloride, mp 213°~215.5° C.

reactant | 5-Methyl-3-morpholino-6-phenyl-1,2,4-triazine | 2.32 g | CC=1N=C(N=NC1C1=CC=CC=C1)N1CCOCC1 | C14H16N4O
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.33 g | [Pd] | Pd
product | 5-methyl-3-morpholino-6-phenyl-2,5-dihydro-1,2,4-triazine hydrochloride | Cl.CC1N=C(NN=C1C1=CC=CC=C1)N1CCOCC1 | InChI=1S/C14H18N4O.ClH/c1-11-13(12-5-3-2-4-6-12)16-17-14(15-11)18-7-9-19-10-8-18;/h2-6,11H,7-10H2,1H3,(H,15,17);1H
